US09085540B2
To a mixture of tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate (151 mg) and dioxane (4 mL) were added potassium tert-butoxide (91 mg) and 5-chloro-6-cyclopropyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (190 mg), followed by stirring at 100° C. for 16 hours. After leaving to be cooled, water was added thereto, followed by extraction with ethyl acetate. The organic phase was washed with saturated brine and then dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol=1:0-9:1) to obtain tert-butyl (3R)-3-{[5-carbamoyl-3-cyclopropyl-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]oxy}pyrrolidine-1-carboxylate (189 mg) as a yellow solid.

reactant | tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate | 151 mg | O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | dioxane | 4 mL | O1CCOCC1 | C4H8O2
reactant | potassium tert-butoxide | 91 mg | CC(C)([O-])C.[K+]
reactant | 5-chloro-6-cyclopropyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 190 mg | ClC=1N=C(C(=NC1C1CC1)C(=O)N)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C | C24H32ClN7O
solvent | water | O | H2O
product | tert-butyl (3R)-3-{[5-carbamoyl-3-cyclopropyl-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]oxy}pyrrolidine-1-carboxylate | 189 mg | C(N)(=O)C=1N=C(C(=NC1NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)O[C@H]1CN(CC1)C(=O)OC(C)(C)C)C1CC1 | C33H48N8O4
